US08114868B2
To a solution of 4-iodopyridin-2(1H)-one (3 g, 0.013 mol) and K2CO3 (3.55 g, 0.026 mol) in DMF (30 mL) was added iodomethane (4.7 g, 0.033 mmol). The mixture was stirred at room temperature overnight. Water and EtOAc were added. The organic phase was dried over Na2SO4 and concentrated to give 4-iodo-1-methylpyridin-2(1H)-one (1.6 g, 53%).

reactant | 4-iodopyridin-2(1H)-one | 0.013 mol, 3 g | IC1=CC(NC=C1)=O | C5H4INO
reactant | K2CO3 | 0.026 mol, 3.55 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 0.033 mmol, 4.7 g | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-iodo-1-methylpyridin-2(1H)-one | 1.6 g, 53% | IC1=CC(N(C=C1)C)=O | C6H6INO
